US09422292B2
A solution of 4-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione (200 mg, 1.04 mmol) and acetohydrazide (150 mg, 2.07 mmol) in n-BuOH (10 mL) was heated at 130° C. overnight. The reaction mixture was evaporated, and then water (10 mL) was added, extracted with ethyl acetate (10 mL), dried with Na2SO4, and concentrated to give the crude product, which was purified by prep-TLC to give 1,5-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (100 mg, 45%).

reactant | 4-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione | 1.04 mmol, 200 mg | CC1NC2=C(NC(C1)=S)C=CC=C2 | C10H12N2S
reactant | acetohydrazide | 2.07 mmol, 150 mg | C(C)(=O)NN | C2H6N2O
solvent | n-BuOH | 10 mL | CCCCO | C4H10O
product | 1,5-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 100 mg, 45% | CC1=NN=C2N1C1=C(NC(C2)C)C=CC=C1 | C12H14N4
